reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]=[C:2]([C:3](/[N:4]=[C:5](/[O:6][H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9])[H:7],30.682813358750707
[C:1](=[C:2]([O-:3])[C+:4]([O:5][H:7])[N:6]([H:10])[H:11])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],5.617656907473197
[C:1]([H:8])([H:9])([H:10])[H:15].[C:2](\[C:3]([O:4][H:14])([H:12])[H:13])(=[N:5]\[C:6](=[O:7])[H:16])[H:11]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],68.611239184905
[N:1]([C:2](=[C:3]([H:10])[H:11])[C:5]#[N:6])([H:7])[H:8].[O:4]([H:9])[H:12]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],60.184220761635494
[N:1]([C@:2]1([O:3][H:12])[C:4]([H:10])([H:11])[C@:5]1([C:6]([O:7][H:16])([H:14])[H:15])[H:13])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],41.015258716196605
[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:13].[C:2](=[O+:3][C:4](=[C:5]=[N-:6])[H:12])([H:10])[H:11],89.39102673241631
[O+:1]1=[C:2]([H:7])[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])=[C-:6]1>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],0.11727013416499688
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([N:4]([C-:5]=[O+:6][C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],107.248247024621
[C:1]([O:2][C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[O+:2][C:3](=[C:4]([O-:5])[H:11])[H:10])([H:6])[H:8].[H:7][H:9],77.9371890161137
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:16],69.83773191713419
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5][C:7]1([H:14])[H:15])([O:6][H:10])[H:9])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],18.513040976582914
[O:1]([C:2]([C:3]([O:4][H:11])=[C:5]=[N:6][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7],62.7004377724671
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1=[C:5]([H:14])[H:15])([H:7])([H:8])[H:9].[O:6]([H:13])[H:16]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9],58.19583343442079
[C:1]([N:2]=[C:3]=[O:4])([H:6])([H:7])[H:8].[C:5]([H:9])([H:10])([H:11])[H:12]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],69.38982507103151
[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])=[C:6]=[N:7][C:4]#[C:5][H:12])([H:8])([H:9])[H:10],102.471344465628
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2][C:4]([O:5]/[C:6]([C:3]([H:11])([H:12])[H:13])=[N:7]\[H:16])([H:14])[H:15])([H:8])([H:9])[H:10],105.62814609635001
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3]1\[O:4][C:5]1([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:8])([H:9])[H:10].[H:11][H:12],93.4334256695542
[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](/[C:4](=[C:5](\[O:6][H:15])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],71.2041649188524
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[N+:1](#[C-:2])[C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],52.827413139351215
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:11])[H:18])([H:8])([H:9])[H:10].[N:4]([C:5]([H:15])([H:16])[H:17])=[C:6]=[O:7],86.473778696075
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]1[C:2]([H:9])([H:10])[C:3]#[C:4][C:5]([H:11])([H:12])[C@:6]1([O:7][H:8])[H:13],74.3708319194944
[C:1]([C:2]1=[C:3]([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10].[C:4]([H:11])([H:13])([H:14])[H:15]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10],83.97792855828651
[C:1]([n:4]1/[c:3](=[N:2]/[H:11])[c:7]([H:14])[c:6]([H:13])[n:5]1[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],73.20205715258092
[C:1]([H:8])[H:10].[C:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])([H:9])[H:11]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],6.877368270559998
